US07915300B2
4-(2-Cyclopentylamino-thiazol-4-yl)-benzoic acid
Isothiocyanato-cyclopentane (4 g) in ammonia (37% in water, 8 mL) and methanol (32 mL) was stirred for 16 hours, filtered of and dried. The Cyclopentyl-thiourea (2.06 mmol) and 4-(2-Bromo-acetyl)-benzoic acid (2.06 mmol) were mixed in THF (12 mL). After stirring at room temperature for 5 minutes the mixture was heated to 80° C. for 2 hours. The mixture was then cooled to room temperature and filtered. The solid was washed with a small amount of diethylether and dried. m/z=289.05 in MS ES+, which was characterized by hplc and MS and used in the next step without any further purification.

reactant | Isothiocyanato-cyclopentane | 4 g | N(=C=S)C1CCCC1 | C6H9NS
reactant | Cyclopentyl-thiourea | 2.06 mmol | C1(CCCC1)NC(=S)N | C6H12N2S
reactant | 4-(2-Bromo-acetyl)-benzoic acid | 2.06 mmol | BrCC(=O)C1=CC=C(C(=O)O)C=C1 | C9H7BrO3
solvent | ammonia | 8 mL | N | H3N
solvent | methanol | 32 mL | CO | CH4O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 4-(2-Cyclopentylamino-thiazol-4-yl)-benzoic acid | C1(CCCC1)NC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C15H16N2O2S
